US06451810B1
According to the general method of Example 50, 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine and indole-3-carboxylic acid were combined to provide N3-{4-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-3-indolecarboxamide as a white powder, m.p. 225.5-227.4° C. 1H NMR (300 MHz, DMSO-d6) δ11.50 (broad s, 1H), 8.13 (d, J=7.9 Hz, 1H), 8.06 (d, J=10.2 Hz, 1H), 7.95-7.89 (m, 2H), 7.61 (d, J=8.3 Hz, 1H), 7.43-7.35 (m, 2H), 7.20-7.05 (m, 3H), 6.48 (broad s, 2H), 4.58 (t, J=7.2 Hz, 2H), 3.80 (t, J=6.6 Hz, 2H), 3.33 (m, 2H), 3.24-3.18 (m, 5H), 1.88 (m, 2H), 1.70 (m, 2H); 13C NMR (75 MHz, DMSO-d6) δ165.0, 152.0, 151.0, 145.1, 136.4, 132.6, 127.8, 126.8, 126.6, 126.4, 122.1, 121.5, 121.4, 120.6, 120.3, 115.1, 112.1, 111.0, 70.5, 58.4, 45.1, 38.2, 27.7, 27.5, 27.0; MS (EI) m/e 456.2282 (456.2274 calcd for C26H28N6O2).

reactant | 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O
reactant | indole-3-carboxylic acid | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
product | N3-{4-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-3-indolecarboxamide | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)C2=CNC1=CC=CC=C21)CCOC | C26H28N6O2
